US06743794B2
(Pyridin-3-yloxy)-acetic Acid
To a solution of the compound from preparation 295, (pyridin-3-yloxy)-acetic acid ethyl ester, 300 mg (1.68 mmol) in 15 mL of dioxane was added a solution of 400 mg (16.8 mmol) of lithium hydroxide in 15 mL of water. The solution was stirred for three hours at rt. then acidified to pH=1.0 with 5 N HCl and concentrated to dryness to give a quantitative yield of the crude desired product. MS (ion spray) 154.1 (M+). Crude product was carried on without further purification.

reactant | (pyridin-3-yloxy)-acetic acid ethyl ester | C(C)OC(COC=1C=NC=CC1)=O | C9H11NO3
reactant | lithium hydroxide | 16.8 mmol, 400 mg | [OH-].[Li+]
reactant | HCl | 5 N | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
product | (Pyridin-3-yloxy)-acetic Acid | quantitative yield | N1=CC(=CC=C1)OCC(=O)O | C7H7NO3
